US04003215
Monochlorotrifluoromethane/Monochlorodifluoromethane;
Monochlorotrifluoromethane/Monochloropentafluoroethane; Monochlorodifluoromethane/Trifluoromethane; Monochlorodifluoromethane/Dichlorotetrafluoroethane; Trifluoromethane/Monochloropentafluoroethane; Trichlorotrifluoroethane/Dichlorotetrafluoroethane; Dichlorotetrafluoroethane/Monochloropentafluoroethane.

reactant | Monochlorotrifluoromethane Monochloropentafluoroethane | ClC(F)(F)F.ClC(C(F)(F)F)(F)F
reactant | Monochlorodifluoromethane Trifluoromethane | ClC(F)F.FC(F)F
reactant | Monochlorodifluoromethane Dichlorotetrafluoroethane | ClC(F)F.C(C(F)(F)Cl)(F)(F)Cl
reactant | Trifluoromethane Monochloropentafluoroethane | FC(F)F.ClC(C(F)(F)F)(F)F
reactant | Trichlorotrifluoroethane Dichlorotetrafluoroethane | ClC(C(F)(F)F)(Cl)Cl.C(C(F)(F)Cl)(F)(F)Cl
reactant | Dichlorotetrafluoroethane Monochloropentafluoroethane | C(C(F)(F)Cl)(F)(F)Cl.ClC(C(F)(F)F)(F)F
product | Monochlorotrifluoromethane Monochlorodifluoromethane | ClC(F)(F)F.ClC(F)F | InChI=1S/CClF3.CHClF2/c2-1(3,4)5;2-1(3)4/h;1H
